US04814343
A suspension of 0.148 mole of methyl magnesium iodide in 150 ml of diethyl ether at a temperature of 30° C., is added at ambient temperature to 17.3 g (0.033 mole) of (6-chloro-4H-1,3-benzodioxin-8-yl)(1-triphenylmethyl-1H-imidazol-4-yl)ketone dissolved in 200 ml of tetrahydrofuran. The temperature of the reaction mixture increases to 40° C. When the addition is complete, stirring is maintained for 1 hour at ambient temperature. There is then added 8 g of ammonium chloride and stirring is continued for a further hour. Subsequently, 100 ml of water are added and the reaction mixture is extracted twice with dichloromethane. The organic phases are dried over anhydrous sodium sulfate and the solvent is removed under reduced pressure. The residue is recrystallized from 100 ml of ethyl acetate. 13.77 g of alpha-(6-chloro-4H-1,3-benzodioxin-8-yl)-alpha-methyl-1-triphenylmethyl-1H-imidazole-4-methanol are obtained. Yield: 80% of theory; M.P.: 248°-250° C. (decomposition).

reactant | methyl magnesium iodide | 0.148 mole | C[Mg]I
reactant | (6-chloro-4H-1,3-benzodioxin-8-yl)(1-triphenylmethyl-1H-imidazol-4-yl)ketone | 0.033 mole | ClC1=CC2=C(OCOC2)C(=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H23ClN2O3
reactant | ammonium chloride | 8 g | [Cl-].[NH4+]
reactant | water | 100 ml | O | H2O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | alpha-(6-chloro-4H-1,3-benzodioxin-8-yl)-alpha-methyl-1-triphenylmethyl-1H-imidazole-4-methanol | 13.77 g, Yield: 80% | ClC1=CC2=C(OCOC2)C(=C1)C(O)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C32H27ClN2O3
